US05688810
3-Chloro-4-amino-3'-nitrobiphenyl (structure 82 of Scheme XXI, where R1 =R3-7 =H, R2 =nitro, R8 =chloro).
This compound was prepared by General Method 14 (EXAMPLE 191) from 3-nitrobenzeneboronic acid (0.25 g, 1.5 mmol), 4-bromo-2-chloroaniline (0.21 g, 1.0 mmol), and (PPh3)4Pd (35 mg, 0.030 mmol) to afford a crude material which was used directly in the next step.

reactant | 3-nitrobenzeneboronic acid | 1.5 mmol, 0.25 g | [N+](=O)([O-])C=1C=C(C=CC1)B(O)O | C6H6BNO4
reactant | 4-bromo-2-chloroaniline | 1.0 mmol, 0.21 g | BrC1=CC(=C(N)C=C1)Cl | C6H5BrClN
catalyst | (PPh3)4Pd | 0.030 mmol, 35 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-Chloro-4-amino-3'-nitrobiphenyl | ClC=1C=C(C=CC1N)C1=CC(=CC=C1)[N+](=O)[O-] | C12H9ClN2O2
